US05502183
9α-hydroxyandrost-4-ene-3,17-dione (100 g, 0.324 mol) was added to 450 mls tetrahydrofuran. To the resulting mixture, trimethyl orthoformate (105 ml, 0.97 mol) and (+/-) camphor sulfonic acid (3.5 g, 0.015 mol) was added. The mixture was then stirred at 20°-25° C. for 4 hours under nitrogen. Triethylamine (2.2 ml, 0.015 mol) was added to neutralize the camphor sulfonic acid. The reaction mixture was concentrated under vacuum (27-28 inches Hg.) at 5°-10° C. to 250 mls. and cooled to 0°-5° C. Sodium methoxide (26 g, 0.48 mol) was added over 20 minutes at 0°-5° C. Diethyl oxalate (53 ml, 0.39 mol) was added over 20 minutes at 0°-5° C. The mixture was agitated at 20°-25° C. over 16 hours under nitrogen. The mixture was then charged to a 1 liter glass autoclave and sodium iodide (24.3 g, 0.162 mol) added. The autoclave was purged with nitrogen three times and charged with methyl chloride (30-35 g, 0.62-0.71 mol). The contents of the autoclave were then heated to 60°-65° C. with agitation and maintained at this temperature for 16 hours. The mixture was cooled to 20°-25° C. and transferred to a 2 liter 3 neck flask. Tetrahydrofuran was displaced with 1.2 liters methanol under vacuum (27-28 in. Hg) at 10°-15° C. The resulting mixture was cooled to 0°-5° C. and sodium methoxide (52.5 g, 0.97 mol) was added over 30-40 minutes. The mixture was stirred at 0°-5° C. for about 16 hours under nitrogen. Methanol was displaced under vacuum (27-28 in Hg.) with 600 mls water at 0°-10° C. The mixture was cooled to 0°-5° C. and acidified to pH=8.0 with acetic acid (182 ml, 3.2 mol). The mixture was added to 10 liters 0°-5° C. water with stirring over 15 minutes. The precipitate was then filtered and washed with water (2×500 ml). Then the cake was dried in a vacuum oven at 35°-40° C. under a nitrogen bleed to constant weight to give 9α-hydroxy- 3-methoxy-16β-methylandrost-3,5-dien-17-one (87-88 g, 81%).

reactant | 9α-hydroxyandrost-4-ene-3,17-dione | 0.324 mol, 100 g | O[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)CC2)=O)=O)C | C19H26O3
reactant | trimethyl orthoformate | 0.97 mol, 105 ml | C(OC)(OC)OC | C4H10O3
reactant | (+/-) camphor sulfonic acid | 0.015 mol, 3.5 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | Triethylamine | 0.015 mol, 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | Sodium methoxide | 0.48 mol, 26 g | C[O-].[Na+]
reactant | Diethyl oxalate | 0.39 mol, 53 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium iodide | 0.162 mol, 24.3 g | [I-].[Na+]
reactant | methyl chloride | 0.62-0.71 mol, 30-35 g | CCl | CH3Cl
reactant | sodium methoxide | 0.97 mol, 52.5 g | C[O-].[Na+]
reactant | acetic acid | 3.2 mol, 182 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 600 mls | O | H2O
solvent | Methanol | CO | CH4O
solvent | methanol | 1.2 liters | CO | CH4O
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 450 mls | O1CCCC1 | C4H8O
product | 9α-hydroxy- 3-methoxy-16β-methylandrost-3,5-dien-17-one | 87-88 g, 81% | O[C@@]12[C@]3(CCC(=CC3=CC[C@H]1[C@@H]1C[C@@H](C([C@@]1(C)CC2)=O)C)OC)C | C21H30O3
